//*
simulator lang=spectre
library gpdk045

section tt_mim
parameters mimfacator=1
include "gpdk045_mimcap.scs" section=cap
endsection tt_mim

section ss_mim
parameters mimfacator=1.15
include "gpdk045_mimcap.scs" section=cap
endsection ss_mim

section ff_mim
parameters mimfacator=0.85
include "gpdk045_mimcap.scs" section=cap
endsection ff_mim

section mc_mim
include "gpdk045_mimcap.scs" section=stat_mim
parameters    par_mimfacator             =    var_mimfacator        
parameters    mimfacator                 =   1+0.05*par_mimfacator                      
include "gpdk045_mimcap.scs" section=cap
endsection mc_mim

section stat_mim        
parameters      random_mimfacator        = 0
parameters     var_mimfacator            =     random_mimfacator   
statistics {
   process {     
            vary    random_mimfacator               dist=gauss std=1/1  
                    }
    }   
endsection stat_mim


section tt3_mim
parameters mimfacator_b=1
include "gpdk045_mimcap.scs" section=cap3
endsection tt3_mim

section ss3_mim
parameters mimfacator_b=1.15
include "gpdk045_mimcap.scs" section=cap3
endsection ss3_mim

section ff3_mim
parameters mimfacator_b=0.85
include "gpdk045_mimcap.scs" section=cap3
endsection ff3_mim

section mc3_mim
include "gpdk045_mimcap.scs" section=stat3_mim
parameters    par_mimfacator_b             =    var_mimfacator_b        
parameters    mimfacator_b                 =   1+0.05*par_mimfacator_b                      
include "gpdk045_mimcap.scs" section=cap3
endsection mc3_mim

section stat3_mim        
parameters      random_mimfacator_b        = 0
parameters     var_mimfacator_b            =     random_mimfacator_b   
statistics {
   process {     
            vary    random_mimfacator_b               dist=gauss std=1/1  
                    }
    }   
endsection stat3_mim


section  cap

subckt mimcap (n1 n2)
parameters w=1u l=1u
+ cmim_para=(w * l) * 1.025e-3 + 2 * (w + l)* 2.425e-10
model cmim_cap capacitor c=1.0f cj=1e-3 cjsw=1e-10 coeffs=[6.16e-5 -2.05e-5] tc1=-5.225e-5 tc2=1.00e-8 tnom=25
c1 (n1 n2) cmim_cap c=cmim_para*mimfacator
ends mimcap 

endsection cap

section  cap3

subckt g45cmim (n1 n2 body)
parameters w=1u l=1u
+ cmim_para_b=(w * l ) * 1.025e-3 + 2 * (w + l)* 2.425e-10
model cmim_cap3 capacitor c=1.0f cj=1e-3 cjsw=1e-10 coeffs=[6.16e-5 -2.05e-5] tc1=-5.225e-5 tc2=1.00e-8 tnom=25
l1 (n1 n11) inductor l=(w*1e6*0.11-l*1e6*0.15+10.7)*1e-12
r1 (n11 n22 ) resistor r=(8000/(w*1e6)/(l*1e6)+150)*1e-3
c1 (n22 n33) cmim_cap3 c=cmim_para_b*mimfacator_b
r2 (n33 n44 ) resistor r=(3000/(l*1e6)/(w*1e6)+l*1e6/(w*1e6)*28+260+w*1e6*11)*1e-3
l2 (n44 n2) inductor l=(w*1e6*0.11-l*1e6*0.15+10.7)*1e-12
c2 (n33 body) capacitor c=(((w*1e6+0.8)*(l*1e6+0.8)+((w*1e6+3.4)*4.4))*0.0396+(l*1e6+0.8)*0.01+1.0093)*1e-15
ends g45cmim 

endsection cap3
 
endlibrary gpdk045 
